### PR TITLE
[Merged by Bors] - feat(GroupTheory/PGroup): expand p-group API

### PR DESCRIPTION
**Pull request by SnirBroshi**
Basic properties and iffs with `orderOf`/`Nat.card`/`Monoid.exponent`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/PGroup.lean [hunk 1]
```diff
@@ -30,18 +30,60 @@ variable {p} {G}
 
 namespace IsPGroup
 
+theorem _root_.isPGroup_iff_pow_pow_eq_one : IsPGroup p G ↔ ∀ g : G, ∃ k, g ^ p ^ k = 1 :=
+  .rfl
+
+alias ⟨exists_pow_pow_eq_one, _⟩ := isPGroup_iff_pow_pow_eq_one
+
+theorem _root_.isPGroup_iff_orderOf_dvd_pow : IsPGroup p G ↔ ∀ g : G, ∃ k, orderOf g ∣ p ^ k := by
+  simp_rw [isPGroup_iff_pow_pow_eq_one, orderOf_dvd_iff_pow_eq_one]
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean:39]: Would it make sense to move these `_root_` theorems outside the namespace?

File: Mathlib/GroupTheory/PGroup.lean [hunk 2]
```diff
@@ -30,18 +30,60 @@ variable {p} {G}
...
+
+alias ⟨exists_orderOf_dvd_pow, _⟩ := isPGroup_iff_orderOf_dvd_pow
+
 theorem iff_orderOf [hp : Fact p.Prime] : IsPGroup p G ↔ ∀ g : G, ∃ k : ℕ, orderOf g = p ^ k :=
   forall_congr' fun g =>
     ⟨fun ⟨_, hk⟩ =>
       Exists.imp (fun _ h => h.right)
         ((Nat.dvd_prime_pow hp.out).mp (orderOf_dvd_of_pow_eq_one hk)),
       Exists.imp fun k hk => by rw [← hk, pow_orderOf_eq_one]⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean]: Is it possible to golf this with what you added?

File: Mathlib/GroupTheory/PGroup.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/PGroup.lean:39]: I didn't want to treat them different just because they happen to be the first theorems after `namespace IsPGroup`, but I'm not sure

If we move them above `namespace IsPGroup` we would have to add `IsPGroup.` to the `alias`es (or separate the `alias`es from the `theorem`s which I think is wrong)

File: Mathlib/GroupTheory/Sylow.lean [hunk 3]
```diff
@@ -116,6 +120,13 @@ theorem coe_ofCard [Finite G] {p : ℕ} [Fact p.Prime] (H : Subgroup G)
     (card_eq : Nat.card H = p ^ (Nat.card G).factorization p) : ofCard H card_eq = H :=
   rfl
 
+theorem eq_top (H : Sylow 0 G) : (H : Subgroup G) = ⊤ :=
+  H.is_maximal' (.zero _) le_top |>.symm
+
+theorem eq_bot (H : Sylow 1 G) : (H : Subgroup G) = ⊥ :=
+  have := isPGroup_one_iff_subsingleton.mp H.isPGroup'
+  eq_bot_of_subsingleton _
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]: These should probably mention zero and one (because there are other cases where you could imagine the conclusion of a theorem being that a Sylow subgroup equals top or bot).

File: Mathlib/GroupTheory/PGroup.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/GroupTheory/PGroup.lean:39]: fair enough

File: Mathlib/GroupTheory/Sylow.lean (hunk 3 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/Sylow.lean]: `Sylow.zero_eq_top` sounds weird so I went with `Sylow.eq_top_of_zero`

File: Mathlib/GroupTheory/PGroup.lean [hunk 4]
```diff
@@ -30,18 +30,57 @@ variable {p} {G}
...
+alias ⟨exists_pow_pow_eq_one, _⟩ := isPGroup_iff_pow_pow_eq_one
+
+theorem _root_.isPGroup_iff_orderOf_dvd_pow : IsPGroup p G ↔ ∀ g : G, ∃ k, orderOf g ∣ p ^ k := by
+  simp_rw [isPGroup_iff_pow_pow_eq_one, orderOf_dvd_iff_pow_eq_one]
+
+alias ⟨exists_orderOf_dvd_pow, _⟩ := isPGroup_iff_orderOf_dvd_pow
+
+theorem iff_orderOf [Fact p.Prime] : IsPGroup p G ↔ ∀ g : G, ∃ k, orderOf g = p ^ k := by
+  simp_rw [isPGroup_iff_orderOf_dvd_pow, Nat.dvd_prime_pow Fact.out]
+  exact ⟨fun h g ↦ by grind [h g], (· · |>.imp <| by grind)⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean]: perhaps makes the logic a little clearer?
```suggestion
  exact forall_congr' fun g ↦ ⟨by grind, .imp <| by grind⟩
```

File: Mathlib/GroupTheory/PGroup.lean [hunk 5]
```diff
@@ -30,18 +30,57 @@ variable {p} {G}
...
+
+alias ⟨exists_orderOf_eq_pow, _⟩ := iff_orderOf
 
 theorem of_card {n : ℕ} (hG : Nat.card G = p ^ n) : IsPGroup p G := fun g =>
   ⟨n, by rw [← hG, pow_card_eq_one']⟩
 
+theorem of_card_dvd_pow {n : ℕ} (hG : Nat.card G ∣ p ^ n) : IsPGroup p G := by
+  refine fun g ↦ ⟨n, ?_⟩
+  grw [← orderOf_dvd_iff_pow_eq_one, ← hG, orderOf_dvd_natCard]
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean:51]: maybe swap them now?
```suggestion
theorem of_card_dvd_pow {n : ℕ} (hG : Nat.card G ∣ p ^ n) : IsPGroup p G := by
  refine fun g ↦ ⟨n, ?_⟩
  grw [← orderOf_dvd_iff_pow_eq_one, ← hG, orderOf_dvd_natCard]

theorem of_card {n : ℕ} (hG : Nat.card G = p ^ n) : IsPGroup p G :=
  of_card_dvd_pow hG.dvd
```

File: Mathlib/GroupTheory/PGroup.lean [hunk 6]
```diff
@@ -30,18 +30,57 @@ variable {p} {G}
...
+
+variable (p G) in
+theorem of_subsingleton [Subsingleton G] : IsPGroup p G :=
+  fun g ↦ ⟨0, by simp [Subsingleton.eq_one g]⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean]: slightly shorter:
```suggestion
  of_card (n := 0) (by simp)
```

File: Mathlib/GroupTheory/PGroup.lean [hunk 7]
```diff
@@ -30,18 +30,57 @@ variable {p} {G}
...
+
+variable (G) in
+protected theorem zero : IsPGroup 0 G :=
+  fun g ↦ ⟨1, by simp⟩
+
+theorem _root_.isPGroup_one_iff_subsingleton : IsPGroup 1 G ↔ Subsingleton G := by
+  refine ⟨?_, fun h ↦ .of_subsingleton 1 G⟩
+  refine fun h ↦ subsingleton_of_forall_eq 1 fun g ↦ ?_
+  have ⟨k, hk⟩ := h g
+  simpa using hk
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean]:
```suggestion
  simpa [isPGroup_iff_pow_pow_eq_one] using subsingleton_of_forall_eq 1
```

File: Mathlib/GroupTheory/PGroup.lean [hunk 8]
```diff
@@ -30,18 +30,57 @@ variable {p} {G}
...
+
+protected theorem natCard : IsPGroup (Nat.card G) G :=
+  fun g ↦ ⟨1, by simp⟩
+
+@[gcongr]
+protected theorem mono {q : ℕ} (hpq : p ∣ q) (hp : IsPGroup p G) : IsPGroup q G := by
+  refine fun g ↦ hp g |>.imp fun k hk ↦ ?_
+  rw [← orderOf_dvd_iff_pow_eq_one] at hk ⊢
+  exact hk.trans <| pow_dvd_pow_of_dvd hpq k
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean]: (in general, I think it's probably reasonable to prefer the API over relying on defeq in case we ever want to avoid exposing the definition)
```suggestion
  rw [isPGroup_iff_orderOf_dvd_pow] at hp ⊢
  exact fun g ↦ hp g |>.imp fun k hk ↦ hk.trans (pow_dvd_pow_of_dvd hpq k)
```

File: Mathlib/GroupTheory/PGroup.lean [hunk 9]
```diff
@@ -58,6 +97,36 @@ theorem iff_card [Fact p.Prime] [Finite G] : IsPGroup p G ↔ ∃ n : ℕ, Nat.c
...
+
+alias ⟨exists_exponent_dvd_pow, _⟩ := isPGroup_iff_exponent_dvd_pow
+
+theorem _root_.isPGroup_off_exponent_eq_pow [Finite G] [Fact p.Prime] :
+    IsPGroup p G ↔ ∃ n, Monoid.exponent G = p ^ n := by
+  simp_rw [isPGroup_iff_exponent_dvd_pow, Nat.dvd_prime_pow Fact.out]
+  exact ⟨fun ⟨n, k, _, hk⟩ ↦ ⟨k, hk⟩, fun ⟨n, hn⟩ ↦ ⟨n, n, le_rfl, hn⟩⟩
+
+alias ⟨exists_exponent_eq_pow, _⟩ := isPGroup_off_exponent_eq_pow
+
```
Comment (tb65536) [inline Mathlib/GroupTheory/PGroup.lean:137]: I wonder, would it be possible to do something like this, coming full circle to get a clean proof of `IsPGroup.iff_card` and a generalization to non-primes?
```
theorem _root_.foo (G : Type*) [Group G] [Finite G] : ∃ k, Nat.card G ∣ Monoid.exponent G ^ k := by
  sorry

theorem _root_.isPGroup_iff_card_dvd_pow [Finite G] : IsPGroup p G ↔ ∃ n, Nat.card G ∣ p ^ n := by
  simp_rw [isPGroup_iff_exponent_dvd_pow]
  refine ⟨fun ⟨n, h⟩ ↦ ?_, fun ⟨n, h⟩ ↦ ⟨n, Group.exponent_dvd_nat_card.trans h⟩⟩
  obtain ⟨k, hk⟩ := foo G
  use n * k
  rw [pow_mul]
  exact hk.trans (pow_dvd_pow_of_dvd h k)

theorem iff_card [Fact p.Prime] [Finite G] : IsPGroup p G ↔ ∃ n : ℕ, Nat.card G = p ^ n := by
  simp_rw [isPGroup_iff_card_dvd_pow, Nat.dvd_prime_pow Fact.out]
  exact ⟨fun ⟨n, k, _, hk⟩ ↦ ⟨k, hk⟩, fun ⟨n, hn⟩ ↦ ⟨n, n, le_rfl, hn⟩⟩

alias ⟨exists_card_eq, _⟩ := iff_card
```

Comment (tb65536) [reply Mathlib/GroupTheory/PGroup.lean:137]: (probably you would move foo to an earlier file and prove it prime-by-prime, perhaps just setting `k = Nat.card G` or something)

Comment (SnirBroshi) [reply Mathlib/GroupTheory/PGroup.lean:137]: Funny you should mention that, I just completed a proof of `IsPGroup p G ↔ ∃ n, Nat.card G ∣ p ^ n` two hours ago! (it's 6 lines after #40170)

Additionally yesterday I finished a proof of `Nat.card G ∣ ∏ g : G, orderOf g` and I was planning to use it to show your `foo` 😅
This one is indeed prime-by-prime (specifically using `Sylow`, I couldn't find a way to avoid it), and I was initially planning on using it to prove `IsPGroup p G ↔ ∃ n, Nat.card G ∣ p ^ n` but then I found a better proof (indeed with `n := Nat.card G`) :)

My goal was `IsPGroup p G ↔ IsPGroup (p.primeFactors.prod id) G` (and the same for `Sylow` and `pCore`).
I'll PR them soon! Though here they are as code blocks if you want to tinker:

<details>

```lean
-- #40170
theorem dvd_pow_self_iff {n k : ℕ} (hn : n ≠ 0) (hk : k ≠ 0) : n ∣ k ^ n ↔ n.primeFactors ⊆ k.primeFactors := sorry
-- #40170
theorem dvd_prod_primeFactorsList_pow {n : ℕ} (h : n ≠ 0) : n ∣ (∏ p ∈ n.primeFactors, p) ^ n := sorry

theorem _root_.isPGroup_iff_natCard_dvd_pow [Finite G] {p : ℕ} (hp : p ≠ 0) :
    IsPGroup p G ↔ ∃ n, Nat.card G ∣ p ^ n := by
  refine ⟨fun h ↦ ?_, fun ⟨n, hn⟩ ↦ of_card_dvd_pow hn⟩
  refine ⟨Nat.card G, dvd_pow_self_iff Nat.card_pos.ne' hp |>.mpr fun q hq ↦ ?_⟩
  have ⟨hqp, hqdvd, _⟩ := Nat.mem_primeFactors.mp hq
  have ⟨g, hg⟩ := exists_prime_orderOf_dvd_card' q (hp := ⟨hqp⟩) hqdvd
  have ⟨k, hk⟩ := h.exists_orderOf_dvd_pow g
  exact Nat.mem_primeFactors.mpr ⟨hqp, hqp.dvd_of_dvd_pow <| hg ▸ hk, hp⟩

alias ⟨exists_natCard_dvd_pow, _⟩ := isPGroup_iff_natCard_dvd_pow

theorem iff_card [Fact p.Prime] [Finite G] : IsPGroup p G ↔ ∃ n : ℕ, Nat.card G = p ^ n := by
  refine ⟨fun h ↦ ?_, fun ⟨n, hn⟩ ↦ of_card hn⟩
  have ⟨n, hn⟩ := h.exists_natCard_dvd_pow <| Nat.Prime.ne_zero Fact.out
  exact Nat.dvd_prime_pow Fact.out |>.mp hn |>.imp fun _ ↦ And.right

theorem _root_.isPGroup_iff_isPGroup_primeFactorsList (h : p ≠ 0) :
    IsPGroup p G ↔ IsPGroup (p.primeFactors.prod id) G :=
  ⟨(.of_pow <| ·.mono <| dvd_prod_primeFactorsList_pow h), .mono p.prod_primeFactors_dvd⟩

theorem _root_.isPGroup_iff_primeFactors_natCard_subset [Finite G] (h : p ≠ 0) :
    IsPGroup p G ↔ (Nat.card G).primeFactors ⊆ p.primeFactors := by
  rw [isPGroup_iff_natCard_dvd_pow h]
  refine ⟨fun ⟨n, hn⟩ ↦ ?_, fun hG ↦ ?_⟩
  · rcases eq_or_ne n 0 with (rfl | hn0)
    · simp_all
    grw [← Nat.primeFactors_pow p hn0, Nat.primeFactors_mono hn <| pow_ne_zero n h]
  · refine ⟨Nat.card G, dvd_trans (dvd_prod_primeFactorsList_pow Nat.card_pos.ne') ?_⟩
    apply pow_dvd_pow_of_dvd
    exact dvd_trans (Finset.prod_dvd_prod_of_subset _ _ id hG) p.prod_primeFactors_dvd
```
</details>

<details>

```lean
-- TODO: is there a proof without `Sylow` or primes?
variable (G) in
theorem _root_.Group.natCard_dvd_univ_prod_orderOf [Fintype G] :
    Nat.card G ∣ ∏ g : G, orderOf g := by
  refine Nat.factorization_prime_le_iff_dvd Nat.card_pos.ne' ?_ |>.mp fun p hp ↦ ?_
  · exact prod_ne_zero_iff.mpr fun g _ ↦ orderOf_ne_zero_iff.mpr <| isOfFinOrder_of_finite g
  have H := Classical.arbitrary <| Sylow p G
  rw [Nat.factorization_prod_apply fun g _ ↦ orderOf_ne_zero_iff.mpr <| isOfFinOrder_of_finite g]
  suffices Nat.card H - 1 ≤ ∑ g : G, (orderOf g).factorization p by
    grw [← this, H.card_eq_multiplicity (hp := ⟨hp⟩),
      ← Nat.le_sub_one_of_lt <| Nat.lt_pow_self hp.one_lt]
  have := Fintype.ofFinite
  grw [← sum_le_sum_of_subset (H \ {1} : Set G).toFinset.subset_univ,
    ← card_nsmul_le_sum _ _ 1 fun g hg ↦ ?_]
  · simp [← SetLike.coe_sort_coe]
  simp_rw [Set.mem_toFinset, Set.mem_diff, Set.mem_singleton_iff] at hg
  have ⟨k, hk⟩ := IsPGroup.iff_orderOf (hp := ⟨hp⟩).mp H.isPGroup' ⟨g, hg.left⟩
  have : k ≠ 0 := by rintro rfl; simp_all
  simp [← orderOf_mk g hg.left, hk, hp.factorization_self, Nat.one_le_iff_ne_zero.mpr this]

theorem _root_.natCard_dvd_exponent_pow [Finite G] :
    Nat.card G ∣ Monoid.exponent G ^ Nat.card G := by
  have := Fintype.ofFinite G
  apply dvd_trans <| Group.natCard_dvd_univ_prod_orderOf G
  rw [Nat.card_eq_fintype_card, ← card_univ, ← Finset.prod_const]
  exact Finset.prod_dvd_prod_of_dvd _ _ fun g _ ↦ Monoid.order_dvd_exponent g
```
</details>

Comment (tb65536) [reply Mathlib/GroupTheory/PGroup.lean:137]: Can you get away with just using Cauchy's theorem (exists_prime_orderOf_dvd_card) rather than Sylow? It would be nice if things could be kept to the p-groups file.

Comment (SnirBroshi) [reply Mathlib/GroupTheory/PGroup.lean:137]: Do you mean for the `Monoid.exponent` theorem? I'm not sure how, my proof relies on the size of the Sylow subgroup and Cauchy will only give me `p - 1` elements with order `p`.

Comment (SnirBroshi) [reply Mathlib/GroupTheory/PGroup.lean:137]: btw I opened #40308 for it

Comment (tb65536) [reply Mathlib/GroupTheory/PGroup.lean:137]: Should this PR depend on #40170?

Comment (tb65536) [reply Mathlib/GroupTheory/PGroup.lean:137]: (You shouldn't need Sylow to prove `foo`, because `Nat.card G ∣ radical (Nat.card G) ^ k ∣ Monoid.exponent G ^ k` with the first divisibility by #40170 and the second by Cauchy).

Comment (SnirBroshi) [reply Mathlib/GroupTheory/PGroup.lean:137]: Yes we've discussed it in #40308, but this PR does not prove `foo` so no need for the dependency.
Once #40170 is merged I'll open a PR for `foo` using Cauchy.

Comment (SnirBroshi) [reply Mathlib/GroupTheory/PGroup.lean:137]: Opened #41260

File: Mathlib/GroupTheory/PGroup.lean [hunk 10]
```diff
@@ -30,40 +30,124 @@ variable {p} {G}
...
   rw [← orderOf_eq_one_iff, hk, hk0, pow_zero]
 
-theorem of_card {n : ℕ} (hG : Nat.card G = p ^ n) : IsPGroup p G := fun g =>
-  ⟨n, by rw [← hG, pow_card_eq_one']⟩
+theorem of_card {n : ℕ} (hG : Nat.card G = p ^ n) : IsPGroup p G :=
+  of_card_dvd_pow hG.dvd
+
+variable (p G) in
+theorem of_subsingleton [Subsingleton G] : IsPGroup p G :=
+  of_card (n := 0) <| by simp
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/PGroup.lean]:
```suggestion
  of_card (n := 0) (by simp)
```
Just to make it more readable.

File: Mathlib/GroupTheory/PGroup.lean [hunk 11]
```diff
@@ -30,40 +30,124 @@ variable {p} {G}
...
+protected theorem card : IsPGroup (Nat.card G) G :=
+  fun g ↦ ⟨1, by simp⟩
+
+@[gcongr]
+protected theorem mono {q : ℕ} (hpq : p ∣ q) (hp : IsPGroup p G) : IsPGroup q G := by
+  rw [isPGroup_iff_orderOf_dvd_pow] at hp ⊢
+  exact fun g ↦ hp g |>.imp fun k hk ↦ hk.trans <| pow_dvd_pow_of_dvd hpq k
+
+theorem of_pow {n : ℕ} (h : IsPGroup (p ^ n) G) : IsPGroup p G :=
+  fun g ↦ h g |>.imp' (n * ·) <| by simp [pow_mul]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/PGroup.lean]: Please don't use ` |>.`, it's super difficult to remember what it does (wrt ` |>`), and in combination with `<|` it really makes things impossible to follow for a human being.

File: Mathlib/GroupTheory/Sylow.lean [hunk 12]
```diff
@@ -120,6 +120,34 @@ theorem coe_ofCard [Finite G] {p : ℕ} [Fact p.Prime] (H : Subgroup G)
     (card_eq : Nat.card H = p ^ (Nat.card G).factorization p) : ofCard H card_eq = H :=
   rfl
 
+theorem eq_top_of_zero (H : Sylow 0 G) : (H : Subgroup G) = ⊤ :=
+  H.is_maximal' (.zero _) le_top |>.symm
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Sylow.lean]: Please avoid `|>.`

File: Mathlib/GroupTheory/PGroup.lean [hunk 13]
```diff
@@ -30,40 +30,124 @@ variable {p} {G}
...
-    ⟨fun ⟨_, hk⟩ =>
-      Exists.imp (fun _ h => h.right)
-        ((Nat.dvd_prime_pow hp.out).mp (orderOf_dvd_of_pow_eq_one hk)),
-      Exists.imp fun k hk => by rw [← hk, pow_orderOf_eq_one]⟩
+theorem _root_.isPGroup_iff_pow_pow_eq_one : IsPGroup p G ↔ ∀ g : G, ∃ k, g ^ p ^ k = 1 :=
+  .rfl
+
+alias ⟨exists_pow_pow_eq_one, _⟩ := isPGroup_iff_pow_pow_eq_one
+
+theorem _root_.isPGroup_iff_orderOf_dvd_pow : IsPGroup p G ↔ ∀ g : G, ∃ k, orderOf g ∣ p ^ k := by
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/PGroup.lean:38]: I don't have a specific opinion, but I see that some iff lemmas are `isPGroup.iff_...` and others are `isPGroup_iff_...`. We should try to be consistent, but maybe this is for another PR.

File: Mathlib/GroupTheory/PGroup.lean [hunk 14]
```diff
@@ -30,40 +30,124 @@ variable {p} {G}
...
+
+@[simp]
+theorem _root_.isPGroup_one_iff_subsingleton : IsPGroup 1 G ↔ Subsingleton G := by
+  refine ⟨?_, fun h ↦ .of_subsingleton 1 G⟩
+  simpa [isPGroup_iff_pow_pow_eq_one] using subsingleton_of_forall_eq 1
+
+protected theorem card : IsPGroup (Nat.card G) G :=
+  fun g ↦ ⟨1, by simp⟩
+
+@[gcongr]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/PGroup.lean:94]: Do we really want this to be `@[gcongr]`?

File: Mathlib/GroupTheory/PGroup.lean (hunk 11 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/PGroup.lean]: > it really makes things impossible to follow for a human being 

This evidently differs by person, so such a blanket statement is false. The style guide also recommends these, and gives an easy way to remember which is which. But you don't need to remember: one has a dot, the other one doesn't.
(that said, there is a version without the dot, but I have never seen it used in Mathlib and maybe we should even lint against it; there are just 34 occurrences compared to thousands of the 2 variants I use)
The style guide does say "judicious", but it then goes on to say why these are great. They're also widely used in Mathlib.

It's unusual to go against the style guide in review, but okay.

File: Mathlib/GroupTheory/PGroup.lean (hunk 14 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/PGroup.lean:94]: Why not? Nat divisibility is a partial order, and this tag let's us do this:
```lean
example {q : ℕ} (hpq : p ∣ q) (hp : IsPGroup p G) : IsPGroup q G := by
  grw [← hpq]
  exact hp
```
(same theorem but uses `grw`)

File: Mathlib/GroupTheory/PGroup.lean (hunk 11 above)
Comment (riccardobrasca) [reply Mathlib/GroupTheory/PGroup.lean]: I just think that using *both* in the same line is not judicious. I personally don't like `.<|` because it's not exactly the symmetric of `<|` (or maybe it is, I don't know, I find it confusing). Anyway it's not super important, but please avoid at least both of them in the same line.

File: Mathlib/GroupTheory/PGroup.lean (hunk 13 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/PGroup.lean:38]: I don't think the naming convention makes a ruling on this, but AFAIK `isPGroup_iff` is the preferred name.
Usually this is because it allows for dot-notation (e.g. `H.normal_iff_map_conj_eq` for a subgroup `H`) but we don't have dot-notation for groups.

Comment (riccardobrasca) [reply Mathlib/GroupTheory/PGroup.lean:38]: OK let's keep it like that.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by SnirBroshi** [comment]
Thank you!

bors merge

File: Mathlib/GroupTheory/PGroup.lean (hunk 9 above)
Comment (tb65536) [reply Mathlib/GroupTheory/PGroup.lean:137]: I've opened #41816
